US07504412B2
5-(4-Fluorophenyl)-2-pyridinecarboxylic acid
Operations similar to those of Production Example 14 were conducted using 5-bromo-2-pyridinecarboxylic acid and 4-fluorophenylboronic acid, to provide the title compound as white solid.

reactant | 5-bromo-2-pyridinecarboxylic acid | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 5-(4-Fluorophenyl)-2-pyridinecarboxylic acid | FC1=CC=C(C=C1)C=1C=CC(=NC1)C(=O)O | C12H8FNO2
